US08283353B2
4′-[(4-{trans-4-[2-(methylsulfanyl)ethoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
A mixture of 4′-({4-[trans-4-(2-hydroxyethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.2 g), p-toluenesulfonyl chloride (0.089 g), triethylamine (0.066 mL), 4-dimethylaminopyridine (0.005 g) and acetonitrile (10 mL) was stirred for 4 hr. The reaction mixture was washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was dissolved in acetonitrile (15 mL), sodium thiomethylate (15% aqueous solution, 1.8 g) was added, and the mixture was stirred at 50° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.2 g, 94%).

reactant | 4′-({4-[trans-4-(2-hydroxyethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.2 g | OCCO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C30H33N5O3
reactant | p-toluenesulfonyl chloride | 0.089 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.066 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.005 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4′-[(4-{trans-4-[2-(methylsulfanyl)ethoxy]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.2 g, 94% | CSCCO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C31H35N5O2S
